US08455646B2
Preparation of (2-acetyl-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C64)
PS-DCC (890 mg, 1.184 mmol, loading: 1.33 mmol/g) is suspended in dry THF (10 mL). (2-Acetyl-phenylamino)-phenyl-acetic acid hydrochloride (I63) (181 mg, 0.59 mmol), HOBt (181 mg, 1.18 mmol), and (R)-quinuclidin-3-ol (226 mg, 1.78 mmol) are added and the mixture is shaken at RT overnight. PS-DCC is filtered off and the filtrate is evaporated. The residue is dissolved in EtOAc and washed with sat. NaHCO3, water and brine, dried over Na2SO4, filtered and evaporated. The resulting crude oil is purified by flash chromatography (DCM/MeOH=9/1) to afford the title compound as a colorless oil (239 mg, quantitative yield, mixture of diastereoisomers).

reactant | DCC | 1.184 mmol, 890 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | (2-Acetyl-phenylamino)-phenyl-acetic acid hydrochloride | 0.59 mmol, 181 mg | Cl.C(C)(=O)C1=C(C=CC=C1)NC(C(=O)O)C1=CC=CC=C1
reactant | HOBt | 1.18 mmol, 181 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-quinuclidin-3-ol | 1.78 mmol, 226 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2-acetyl-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 239 mg, quantitative yield | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)NC2=C(C=CC=C2)C(C)=O)=O | C23H26N2O3
